US05120843
A mixture of 6-hydroxy-2,5,7,8-tetramethychroman-2-carboxylic acid (5.0 g), methanol (100 ml) and p-toluenesulfonic acid (5 mg) is heated at reflux for 18 hr. The mixture is allowed to cool to 20°-25° and the solid collected and washed with ether and dried to give methyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylate. Methyl-6-hydroxy-2,5,7,8-tetramethychroman-2-carboxylate in THF (50 ml), is added to a suspension of lithium aluminum hydride (1.58 g) in THF (50 ml) at 0° dropwise over 15-20 min. The mixture is stirred at 0° for 30 min then at 20°-25° for 18 hr. The mixture is cooled to 0° and quenched by dropwise addition of ethyl acetate (10 ml), water (1.6 ml), aqueous sodium hydroxide (15%, 1.6 ml) and then water (4.8 ml). The mixture is stirred at 0° for 30 min then filtered. The solids are washed with THF (25 ml, 2×). The combined washes and filtrate are concentrated at reduced pressure and the residue is dissolved in ethyl acetate (150 ml), washed with water (100 ml), dried over sodium sulfate and the solvent removed at reduced pressure to a solid. A mixture of the solid (3.0 g), pyridine (3 ml) and chloroform (15 ml) is cooled to 0°. To this mixture is added p-toluenesulfonyl chloride (3.6 g ) in several small portions. The mixture is allowed to stand at 15° for 3 days then chloroform (50 ml) is added. The mixture is washed with water (100 ml), aqueous hydrochloric acid (5%, 100 ml), dried over sodium sulfate and the solvent removed at reduced pressure to give a crude tosylate (5.0 g). The crude tosylate is heated at 120° with piperazine (21.5 g) for 5 hr. The mixture was allowed to cool and distributed between dichloromethane (150 ml) and water (100 ml). The phases are separated and the organic phase is washed with water (100 ml), dried over sodium sulfate and the solvent removed at reduced pressure to leave an oil. This material is flash chromatographed on silica gel (200 g) eluting with ammonia, methanol, ethyl acetate (0.5/4.5/95). The appropriate fractions are pooled and concentrated to give a residue. A mixture of the residue (0.3 g), chlorodipyridinylpyrimidine (J.A.C.S., 32, 1591 (1967), 0.27 g), potassium carbonate (0.14 g) and acetonitrile (15 ml) is heated at reflux for 2 days. The solvent is removed at reduced pressure, the residue was distributed between methylene chloride (30 ml) and water (30 ml). The phases are separated and the organic phase is dried over sodium sulfate and the solvent removed at reduced pressure to leave a solid. This material was flash chromatographed on silica gel (30 g) eluting with ammonia, methanol, ethyl acetate (1/9/90) to give a solid which upon crystallization from ethyl acetate give the title compound.

reactant | 6-hydroxy-2,5,7,8-tetramethychroman-2-carboxylic acid | 5.0 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 100 ml | CO | CH4O
product | methyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylate | COC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C15H20O4
